US04018802
Step D. Preparation of 8-Methylsulfonyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoic acid
A mixture of methyl 8-methylsulfonyl-12-acetoxy-13-(3-trifluoromethylphenoxy)tridecanoate (9.90 g., 0.019 mole), 20% aqueous sodium hydroxide (30 ml.) and methanol (30 ml.) is stirred at room temperature overnight. Then the reaction mixture is concentrated in vacuo on a steam bath. The concentrate is dissolved in water and extracted with ether. The basic aqueous solution is acidified with 6N hydrochloric acid and extracted with ether. These ether extracts are washed with water until neutral, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound (5.55 g., 0.0118 mole, 62%) in analytical purity.

reactant | methyl 8-methylsulfonyl-12-acetoxy-13-(3-trifluoromethylphenoxy)tridecanoate | 0.019 mole, 9.90 g | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O | C24H35F3O7S
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 8-Methylsulfonyl-12-hydroxy-13-(3-trifluoromethylphenoxy)tridecanoic acid | 0.0118 mole, 5.55 g, 62% | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C21H31F3O6S
